US04239760
24.8 g (0.1 mol) of 3-pyrazol-1-yl-7-chloro-benzo-1,2,4-triazine 1-oxide were hydrogenated in 150 ml of ethanol at 25° to 30° C. in the presence of Raney nickel under a hydrogen pressure of 50 bars, until the pressure remained constant. The catalyst was filtered off and the solution was evaporated in vacuo. 3-(Pyrazol-1-yl)-7-chloro-benzo-1,2,4-triazine of melting point 188° C. was obtained in virtually quantitative yield. The compound could be recrystallized from toluene.

reactant | 3-pyrazol-1-yl-7-chloro-benzo-1,2,4-triazine 1-oxide | 0.1 mol, 24.8 g | N1(N=CC=C1)C=1N=[N+](C2=C(N1)C=CC(=C2)Cl)[O-] | C10H6ClN5O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(Pyrazol-1-yl)-7-chloro-benzo-1,2,4-triazine | quantitative yield | N1(N=CC=C1)C=1N=NC2=C(N1)C=CC(=C2)Cl | C10H6ClN5
